US08614328B2
A stirred mixture of 3-hydroxyphthalic anhydride (20.5 g, 125 mmol) in methanol (100 mL) was heated to reflux for three hours. The solvent was evaporated in vacuo, and the residue was suspended in sodium bicarbonate (29.4 g, 350 mmol) in DMF (250 mL), followed by addition of iodomethane (19 mL, 300 mmol) and heating at 55° C. for four hours. The mixture was cooled to room temperature, solvent evaporated in vacuo, and the residue was partitioned between water (200 mL) and ethyl acetate (200 mL). The organic layer was washed with water (2×200 mL), dried, concentrated in vauco, and then purified by flash column chromatography (Silica Gel, EtOAc/Hexane, 0% gradient to 100% 30 min) to give 3-hydroxyphthalic acid dimethyl ester (20.2 g, 77% yield). The product was used in the next step without further purification.

reactant | 3-hydroxyphthalic anhydride | 125 mmol, 20.5 g | OC1=C2C(C(=O)OC2=O)=CC=C1 | C8H4O4
reactant | sodium bicarbonate | 350 mmol, 29.4 g | C([O-])(O)=O.[Na+]
reactant | iodomethane | 300 mmol, 19 mL | IC | CH3I
solvent | methanol | 100 mL | CO | CH4O
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | 3-hydroxyphthalic acid dimethyl ester | 20.2 g, 77% yield | COC(C=1C(C(=O)OC)=C(C=CC1)O)=O | C10H10O5
